US05811432
A) 2-Amino-1-benzyloxy-2-methylpropane
A solution of 2-amino-2-methyl-1-propanol (7.1 mmol) in tetrahydrofuran (THF) (25 mL) was added dropwise to a slurry of 60% sodium hydroxide/oil (3 g, 75 mmol) in THF (75 mL). The mixture was stirred at room temperature for 1 hour and then cooled in an ice bath. A solution of benzyl bromide (5.9 mL, 50 mmol) was added dropwise. After stirring for 2 hours at 0° C., the reaction mixture was poured into ice/water and extracted with ethyl acetate. The organic phase was washed with brine, dried (MgSO4) and concentrated to an oil which was subjected to flash chromatography on silica gel eluting with 5% methanol/chloroform. Fractions containing the desired product were combined and concentrated to yield an oil. Yield: 4.2 g (47%).

reactant | 2-amino-2-methyl-1-propanol | 7.1 mmol | NC(CO)(C)C | C4H11NO
reactant | sodium hydroxide | 75 mmol, 3 g | [OH-].[Na+]
reactant | benzyl bromide | 50 mmol, 5.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | THF | 75 mL | O1CCCC1 | C4H8O
product | 2-Amino-1-benzyloxy-2-methylpropane | NC(COCC1=CC=CC=C1)(C)C | C11H17NO
